US08445522B2
A mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.27 g of potassium carbonate and 3 ml of 2-propyne-1-ol was stirred while heating at 100° C. for two hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.20 g of 2-(3-(2-propyne-1-yloxy)pyridin-4-yl)-5-trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 73”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyne-1-ol | 3 ml | C(C#C)O | C3H4O
solvent | water | O | H2O
product | benzoxazole | O1C=NC2=C1C=CC=C2 | C7H5NO
